US06090900
Ethylene/Vinylethylene Carbonate Copolymer
Upon removal from the glove box, the flask was evacuated and backfilled with ethylene. The catalyst was dissolved in CH2Cl2 (25 mL) and immediately treated with vinyl ethylene carbonate (5 mL). The resulting orange solution was stirred at 23° C. under an ethylene atmosphere (1 atm) for 20 hours. A small amount of polymer had precipitated out of solution. The polymerization was quenched with MeOH and acetone leaving gray oil adhering to the walls of the flask. The polymer was washed several times with acetone and MeOH to remove any remaining monomer. The polymer was dissolved in CH2Cl2 and transferred to a storage jar. The solvent was left to evaporate and the resulting oily polymer was dried in vacuo at ~80° C. for 3 days to afford a tacky solid (2.15 g, 1100 TO). 1H NMR was consistent with a copolymer containing approximately 96.5 weight % ethylene and 3.5 weight % vinyl ethylene carbonate monomer units.; Mn 40,000 g /mol ; Mw 92,000 g /mol ; DSC Tg -68° C., Tm -38° C.

reactant | ethylene | C=C | C2H4
reactant | vinyl ethylene carbonate | C(O)(O)=O.C(=C)C=C
product | Ethylene Vinylethylene Carbonate | C=C.C1(OC(CO1)C=C)=O | InChI=1S/C5H6O3.C2H4/c1-2-4-3-7-5(6)8-4;1-2/h2,4H,1,3H2;1-2H2
